US03975437
2-(5-Oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionyl chloride is obtained by heating 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionic acid (28 g.) in thionyl chloride (280 cc.) for 1 hour. After cooling, the thionyl chloride is evaporated at 60°C. under reduced pressure (20 mm.Hg). 2-(5-Oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionyl chloride (28.8 g.) is thus obtained in the form of an oil.

reactant | 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionic acid | 28 g | O=C1C2=C(CCC3=C1C=CC(=C3)C(C(=O)O)C)C=CC=C2 | C18H16O3
reactant | thionyl chloride | 280 cc | S(=O)(Cl)Cl | Cl2OS
product | 2-(5-Oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionyl chloride | 28.8 g | O=C1C2=C(CCC3=C1C=CC(=C3)C(C(=O)Cl)C)C=CC=C2 | C18H15ClO2
